US07034039B2
To a suspension of 2-{[6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methyl}-1H-isoindole-1,3(2H)-dione (1.37 g, 2.5 mmol) in ethanol (20 ml) was added hydrazine monohydrate (0.36 ml, 7.5 mmol). The mixture was refluxed for 1 h. The reaction mixture was poured into a saturated sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (20 ml), and then di-t-butyl dicarbonate (0.69 ml, 3 mmol) was added thereto. The resulting mixture was refluxed for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were recrystallized from ethyl acetate-diisopropyl ether to give tert-butyl[6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (1.19 g, 92.2%) as crystals.

reactant | 2-{[6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methyl}-1H-isoindole-1,3(2H)-dione | 2.5 mmol, 1.37 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CN1C(C2=CC=CC=C2C1=O)=O)C=1SC=CC1 | C33H28N2O4S
reactant | hydrazine monohydrate | 7.5 mmol, 0.36 ml | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | di-t-butyl dicarbonate | 3 mmol, 0.69 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | tert-butyl[6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1.19 g, 92.2% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)OCC1=CC=CC=C1)=O)CC(C)C)=O | C30H34N2O4S
